US05112743
Then, 22 g (0.06 mole) of p-(1,1-bis(acetoxymethyl)ethylcarbonylamino)benzenesulfonamide, 4.8 g (0.12 mole) of sodium hydroxide, 50 ml of ethanol and 50 ml of water were introduced into a 300 ml three-necked flask equipped with a stirring machine and a condenser and refluxed while heating for 2 hours. The reaction mixture was poured into 1 l of water while stirring, then stirred for 30 minutes and filtered to give white solid of p-(1,1-bis(hydroxymethyl)ethylcarbonylamino)benzenesulfonamide. The white solid was purified by recrystallization from ethanol (yield 11 g).

reactant | p-(1,1-bis(acetoxymethyl)ethylcarbonylamino)benzenesulfonamide | 0.06 mole, 22 g | C(C)(=O)OCC(C)(C(=O)NC1=CC=C(C=C1)S(=O)(=O)N)COC(C)=O | C15H20N2O7S
reactant | sodium hydroxide | 0.12 mole, 4.8 g | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 1 l | O | H2O
solvent | water | 50 ml | O | H2O
product | p-(1,1-bis(hydroxymethyl)ethylcarbonylamino)benzenesulfonamide | OCC(C)(C(=O)NC1=CC=C(C=C1)S(=O)(=O)N)CO | C11H16N2O5S
